Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Evaluation for preterm labor and elevated BPs
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Ms. ___ is a ___ yo G4P2 at 30+3 who presented to OB triage 
for evaluation of abdominal pain and concern for preterm labor.  
Her discomfort started
this morning as a pressure sensation.  The cramping occurs every 
10 minutes.  She worked most of today. She denies any vaginal 
bleeding or leakage of fluid. She endorses active fetal 
movement.

In addition, she has a history of cHTN for which she has been 
maintained on Labetalol. She denies fevers, chills, sweats, 
recent intercourse, headache, or visual changes.

 
Past Medical History:
PNC:
___ ___ by ___ US
Labs: A+/Ab-/HBsAg-/RI/RPRNR/HIV-/GC neg/CT neg/pap neg
Screening: Low risk ERA and nl AFP, nl FFS, nl GTT
Issues:
- +tric noted on Pap, s/p tx with flagyl
- cHTN diagnosed at initial OB, on labetalol 200mg bid
- on iron for anemia
- history of HSV, no recent outbreaks
- History of LTCS x 1 (SVD x1 preceeding), desires TOL
- History of DV

POBHx: G4P2012
- G1: ___ SVD of 7#12oz male at 41 weeks, uncomplicated
- G2: ___ TAB
- G3: ___ pLTCS for arrest of dilation at 9 cm and CPD ___ 
OP
position, delivery of 4115 g male, c/b by PP depression for 
which
started on zoloft and PP HTN with PEC labs WNL for which started
on labetolol

PGynHx:
- Paps: LSIL paps x 2, ___ and ___, missed f/u colpo 
appt
x 2 in ___
- h/o genital HSV with breakout during ___ pregnancy and was
placed on acyclovir. No breakouts since and no current lesions. 

PMH:
- chronic HTN treated with antihypertensives until 3 prior to 
the
pregnancy at ___ as above.
- anemia, presumably ___ menorrhagia
- PP depression (___) as above

PSH: TAB, LTCS
 
Social History:
Denies tobacco, EtOH, recreational drugs. Lives in ___ with 
FOB and 2 children, ages ___, ___. 

 
Physical Exam:
(On Admission)
VS: 97.4 99 18 158/93 160/85 170/88
Gen: Uncomfortable
Abd: Soft, NT, obese
Speculum: Visually closed, no blood
SVE: 1 ext -> FT int, long, posterior, firm.  No change over 2
hours
Ext: NT, NE

FHT: ___ 145, mod var, AGA
Toco: q1-5 irregular but persistent despite hydration and po
nifedipine

TAUS: Vertex, BPP ___, AFI 14cm
 
Pertinent Results:
___ 05:15PM BLOOD WBC-10.3 RBC-4.10* Hgb-12.6 Hct-37.0 
MCV-90 MCH-30.8 MCHC-34.1 RDW-16.3* Plt ___
___ 04:30AM BLOOD WBC-10.3 RBC-4.14* Hgb-12.7 Hct-38.1 
MCV-92 MCH-30.5 MCHC-33.2 RDW-16.6* Plt ___
___ 04:30AM BLOOD Creat-0.5
___ 04:30AM BLOOD ALT-12
___ 04:30AM BLOOD UricAcd-4.7
___ 09:41PM URINE pH-7 Hours-24 Volume-1400 Creat-126 
TotProt-55 Prot/Cr-0.4*
___ 09:41PM URINE 24Creat-1764 24Prot-770
SMEAR FOR BACTERIAL VAGINOSIS (Final ___: 
      POSITIVE: GRAM STAIN CONSISTENT WITH BACTERIAL VAGINOSIS.
 
Brief Hospital Course:
Ms. ___ is a ___ year old G4P2 with cHTN who was admitted to 
the hospital for continued monitoring of preterm contractions 
and for further evaluation of inadequately controlled 
hypertension. 

With regard to her preterm contractions, she had a negative FFN 
and her cervix was noted to fingertip/Long and posterior. It did 
not change on repeat examination. She was given Nifedipine for 
symptomatic relief of her preterm contractions, however, her 
contractions persisted and she developed a severe headache. Her 
preterm contractions ultimately resolved on HD#2 without any 
further tocolytic therapy. 

During evaluation of her preterm contractions, she was noted to 
have bacterial vaginosis and was started on Flagyl for a 7 day 
course. 

Given her persistently elevated blood pressures and the severe 
headache in the morning of HD#2, her Labetalol was increased to 
300mg PO TID and she underwent a pre-eclmapsia evaluation. Her 
serum labs were noted to be normal, however, her 24 hour urien 
was positive at 770mg (baseline 198mg) and she was diagnosed 
with severe pre-eclampsia by blood pressures. 

She was made betamethasone complete and had intensive inpatient 
management in house for her cHTN with superimposed severe 
pre-eclampsia. Her Labetalol was ultimately titrated up to 400 
TID.

Given that she was diagnosed with bacterial vaginosis on 
admission, it was felt that her significant proteinuria may have 
been inaccurate and rather a reflection of vaginal leukorrhea.  
Therefore, a 24 hour urine was repeated on ___ after 
treatment with metronidazole.  This returned with 215mg of 
protein. Given the stabilization of her blood pressures, absence 
of PEC sx, stability of normal HELLP labs, and minimal 
proteinuria, she was offered to stay in house versus be 
discharged to home with twice weekly testing.  She chooses the 
latter and is discharged in good condition with scheduled 
follow-up.
 
Medications on Admission:
prenatal vitamins
labetalol 300mg PO BID
 
Discharge Medications:
1. Labetalol 400 mg PO TID 
RX *labetalol 200 mg 2 tablet(s) by mouth three times per day 
Disp #*180 Tablet Refills:*1
2. Prenatal Vitamins 1 TAB PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
chronic hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the antepartum service for blood pressure 
monitoring and for evaluation for pre-eclampsia. Your laboratory 
testing shows that you have chronic hypertension, but low 
suspicion for pre-eclampsia. 

It is important that you continue modified bed rest with no 
heavy lifting or strenuous activities. 

You should call if you develop a headache, visual changes, or 
upper abdominal pain. Please also call if you develop any 
contractions, vaginal bleeding, leakage of fluid or decrease in 
baby movement. 
 
Followup Instructions:
___